US07718652B2
In an analogous manner to Example 11 step 5, 3-(4-bromobutyl)-6-fluoro-1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (0.11 g, 0.25 mmol) was reacted to cyclopropylamine and then treated with HCl to provide N-{4-[6-fluoro-1-(2-fluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]butyl}cyclopropanamine (0.094 g, 85%) as a white solid:

reactant | 3-(4-bromobutyl)-6-fluoro-1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 0.25 mmol, 0.11 g | BrCCCCN1S(N(C2=C(C1)C=C(C=C2)F)C2=C(C=CC=C2)F)(=O)=O | C17H17BrF2N2O2S
reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | HCl | Cl | ClH
product | N-{4-[6-fluoro-1-(2-fluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]butyl}cyclopropanamine | 0.094 g, 85% | FC=1C=CC2=C(CN(S(N2C2=C(C=CC=C2)F)(=O)=O)CCCCNC2CC2)C1 | C20H23F2N3O2S
